US08937083B2
Preparation of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethylcyclopropanecarboxamide (Compound 538)
To a solution of 3-chloro-N-ethyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine monohydrochloride (0.10 g, 0.0.38 mmol) in dichloroethane (0.75 ml) was added cyclopropanecarboxylic acid (0.03 g, 0.38 mmol) and 4-N,N-dimethylaminopyridine (0.14 g, 1.15 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.14 g, 0.77 mmol). The reaction was stirred at room temperature overnight. The reaction mixture was concentrated to dryness and the crude product was purified by reverse phase silica gel chromatography eluting with 0-50% acetonitrile/water to give a white solid (0.03 g, 25%); mp 111-119° C.; 1H NMR (400 MHz, CDCl3) δ 8.96 (d, J=2.5 Hz, 1H), 8.63-8.59 (m, 1H), 8.06 (ddd, J=8.3, 2.6, 1.4 Hz, 1H), 8.01 (s, 1H), 7.46 (dd, J=8.3, 4.7 Hz, 1H), 3.73 (q, J=7.2 Hz, 2H), 1.46 (ddd, J=12.6, 8.1, 4.7 Hz, 1H), 1.16 (t, J=7.2 Hz, 3H), 1.04 (t, J=3.7 Hz, 2H), 0.71 (dd, J=7.7, 3.0 Hz, 2H); ESIMS m/z 291 ([M+H]).

reactant | 3-chloro-N-ethyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine monohydrochloride | 0.10 g | Cl.ClC1=NN(C=C1NCC)C=1C=NC=CC1
reactant | cyclopropanecarboxylic acid | 0.38 mmol, 0.03 g | C1(CC1)C(=O)O | C4H6O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.77 mmol, 0.14 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloroethane | 0.75 ml | ClC(C)Cl | C2H4Cl2
product | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethylcyclopropanecarboxamide | 0.03 g, 25% | ClC1=NN(C=C1N(C(=O)C1CC1)CC)C=1C=NC=CC1 | C14H15ClN4O
